US08138197B2
Dimethyl 5-(1-pyrolidinyl)isophthalate
In a nitrogen atmosphere, a mixture of dimethyl 5-trifluoromethanesulfonyloxyisophthalate (1.37 g, 4.00 mmol), pyrrolidine (0.50 mL, 6.00 mmol), tris(dibenzylideneacetone)dipalladium(0) (37 mg, 0.040 mmol), 2-(di-tert-butylphosphino)biphenyl (24 mg, 0.080 mmol), potassium phosphate (1.19 g, 5.60 mmol) and 1,2-dimethoxyethane (12 mL) was stirred at 80° C. for 12 hours. After left cooled, the reaction mixture was diluted with ethyl acetate, filtered through Celite, and the filtrate was concentrated under reduced pressure. The residue was purified through silica gel column chromatography to obtain the title compound as a yellow solid.

reactant | dimethyl 5-trifluoromethanesulfonyloxyisophthalate | 4.00 mmol, 1.37 g | FC(S(=O)(=O)OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC)(F)F | C11H9F3O7S
reactant | pyrrolidine | 6.00 mmol, 0.50 mL | N1CCCC1 | C4H9N
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.080 mmol, 24 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | potassium phosphate | 5.60 mmol, 1.19 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.040 mmol, 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,2-dimethoxyethane | 12 mL | COCCOC | C4H10O2
product | Dimethyl 5-(1-pyrolidinyl)isophthalate | N1(CCCC1)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C14H17NO4
